US04198409
1-(2',6'-dimethylphenyl)-4-n-butoxyamino-1,2-dihydro-1,3,5-triazin-2-one
To a magnetically stirred suspension of 12.06 g (38 mmol) of 1-N-butoxy-3-(2,6-dimethylphenyl) amidinourea hydrochloride in 25 ml of CH3CN was added 9.11 g (76 mmol) of N,N-dimethyl-formamide dimethyl acetal and another 25 ml of CH3CN. All of the solid dissolved after the reaction was stirred for 5 minutes. The reaction solution was refluxed for two hours and allowed to come to ambient temperature, then concentrated in vacuo to yield the desired product as a white solid. This was combined with 200 ml of H2O to an insoluble, thin gummy solid which was transferred to a separatory funnel and extracted with CHCl3 (3×75 ml). The organic layers were combined, washed with H2O (2×75 ml) and saturated aqueous brine (1×75 ml). All aqueous washes were combined and back-extracted with (2×50 ml), dried (Mg2SO4), filtered and concentrated in vacuo to yield 1-(2,6-dimethylphenyl)-4-n-butoxyamino-1,2-dihydro-1,3,5-triazin-2-one, as a white solid containing some liquid. Tlc (3% NH4OH/iPA) shows four spots, one of same Rf as starting material. The product was triturated with iPA to yield a white solid: m.p. 144°-145° C.

reactant | 1-N-butoxy-3-(2,6-dimethylphenyl) amidinourea hydrochloride | 38 mmol, 12.06 g | Cl.C(CCC)ONC(=O)NC(NC1=C(C=CC=C1C)C)=N
reactant | N,N-dimethyl-formamide dimethyl acetal | 76 mmol, 9.11 g | COC(N(C)C)OC | C5H13NO2
solvent | CH3CN | 25 ml | CC#N | C2H3N
solvent | CH3CN | 25 ml | CC#N | C2H3N
product | 1-(2',6'-dimethylphenyl)-4-n-butoxyamino-1,2-dihydro-1,3,5-triazin-2-one | CC1=C(C(=CC=C1)C)N1C(N=C(N=C1)NOCCCC)=O | C15H20N4O2
